US08389553B2
1,1-dimethylethyl[2-[({4-[({[(pyridin-3-ylmethyl)oxy]carbonyl}amino)methyl]phenyl}carbonyl)amino]-4-(2-thienyl)phenyl]carbamate (10.5 g, 19 mmol) was taken up in DCM (208 mL)/TFA (41.7 mL). After 1 hour, the solvent was removed in vacuo, saturated NaHCO3 was added and the products extracted into EtOAc (×2). The combined organic extracts were washed with brine, dried over MgSO4 and concentrated in vacuo to give pyridin-3-ylmethyl[(4-{[(4-aminobiphenyl-3-yl)amino]carbonyl}phenyl)methyl]carbamate as a tan solid. 1H NMR (d6-DMSO, 600 MHz) δ 9.69 (s, 1H), 8.57 (s, 1H), 8.51 (dd, J=4.8 and 1.8 Hz, 1H), 7.94 (m, 3H), 7.77 (d, J=7.8 Hz, 1H), 7.53 (d, J=7.8 Hz, 2H), 7.50 (d, J=1.8 Hz, 1H), 7.37 (m, 5H), 7.31 (dd, J=8.4 and 1.8 Hz, 1H), 7.22 (t, J=7.8 Hz, 1H), 6.84 (d, J=8.4 Hz, 1H), 5.08 (br s, 4H), 4.26 (d, J=6.0 Hz, 2H). MS: cal'd 453 (MH+), exp 453 (MH+).

reactant | 1,1-dimethylethyl[2-[({4-[({[(pyridin-3-ylmethyl)oxy]carbonyl}amino)methyl]phenyl}carbonyl)amino]-4-(2-thienyl)phenyl]carbamate | 19 mmol, 10.5 g | CC(C)(C)N(C([O-])=O)C1=C(C=C(C=C1)C=1SC=CC1)NC(=O)C1=CC=C(C=C1)CNC(=O)OCC=1C=NC=CC1
reactant | TFA | 41.7 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 208 mL | C(Cl)Cl | CH2Cl2
product | pyridin-3-ylmethyl[(4-{[(4-aminobiphenyl-3-yl)amino]carbonyl}phenyl)methyl]carbamate | N1=CC(=CC=C1)COC(NCC1=CC=C(C=C1)C(=O)NC=1C=C(C=CC1N)C1=CC=CC=C1)=O | C27H24N4O3
